US09126957B2
Step 2. (1R,2S,3R,4R,5R)-3,4-Bis(benzyloxy)-5-((benzyloxy)methyl)-2-((tert-butoxycarbonyl)amino)cyclohexyl 4-nitrobenzoate
To a solution of tert-butyl((1S,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)carbamate (3.20 g, 5.85 mmol), triphenylphosphine (1.92 g, 7.31 mmol) and 4-nitrobenzoic acid (1.37 g, 8.19 mmol) in anhydrous THF (50 mL), at 0° C., was added DIAD (1.42 g, 7.02 mmol) slowly. After addition the mixture was stirred at room temperature for 3 h. The solvent were evaporated under reduced pressure, and the residue was purified on silica gel by automatic flash column chromatography (EtOAc/hexanes, 1:10 to 1:3), affording the title compound as a white solid (2.80 g, 69%). 1H NMR (400 MHz, CDCl3) δ 8.26-8.20 (m, 4H), 7.33-7.25 (m, 15H), 4.90-4.86 (m, 3H), 4.71 (d, J=11.3 Hz, 1H), 4.57 (d, J=10.8 Hz, 1H), 4.45 (s, 2H), 4.24 (d, J=9.7 Hz, 1H), 3.97-3.93 (m, 1H), 3.68-3.63 (m, 2H), 3.49 (dd, J=2.0, 8.8 Hz, 1H), 3.38 (t, J=10.1 Hz, 1H), 2.22-2.17 (m, 1H), 1.84-1.76 (m, 2H), 1.28 (s, 9H).

reactant | tert-butyl((1S,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)carbamate | 5.85 mmol, 3.20 g | C(C)(C)(C)OC(N[C@@H]1[C@H]([C@@H]([C@H](C[C@@H]1O)COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H41NO6
reactant | triphenylphosphine | 7.31 mmol, 1.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 8.19 mmol, 1.37 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | DIAD | 7.02 mmol, 1.42 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (1R,2S,3R,4R,5R)-3,4-Bis(benzyloxy)-5-((benzyloxy)methyl)-2-((tert-butoxycarbonyl)amino)cyclohexyl 4-nitrobenzoate | 2.80 g, 69% | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](C2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)NC(=O)OC(C)(C)C)C=C1 | C40H44N2O9
